US09255104B2
Benzyl (3aS,4R,6S,6aR)-6-hydroxy-2,2-dimethyl-tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-ylcarbamate
At about 0° C., benzyl carbonochloridate (18.4 g, 107.86 mmol, 1.05 equiv.) was added to the solution of (3aR,4S,6R,6aS)-6-amino-2,2-dimethyl-tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-ol (17.0 g, 98.15 mmol, 1.00 equiv.) and sodium carbonate (20.8 g, 196.24 mmol, 2.00 equiv) in tetrahydrofuran:water (5:1) (600 mL). Standard extractive workup with ethyl acetate (3×200 mL) gave the title product as a white solid (20.5 g; yield=68%). 1H NMR (300 MHz, CDCl3) δ: 7.30-7.39 (m, 5H), 5.20 (s, 2H), 4.60 (d, J=5.4 Hz, 1H), 4.50 (d, J=5.4 Hz, 1H), 4.27 (s, 1H), 4.19 (d, J=5.7 Hz 1H), 2.26 (m, 1H), 1.71 (d, J=14.4 Hz, 1H), 1.47 (s, 3H), 1.28 (s, 3H).

reactant | benzyl carbonochloridate | 107.86 mmol, 18.4 g, 1.05 equiv. | C(OCC1=CC=CC=C1)(=O)Cl | C8H7ClO2
reactant | (3aR,4S,6R,6aS)-6-amino-2,2-dimethyl-tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-ol | 98.15 mmol, 17.0 g, 1.00 equiv. | N[C@@H]1C[C@@H]([C@@H]2[C@H]1OC(O2)(C)C)O | C8H15NO3
reactant | sodium carbonate | 196.24 mmol, 20.8 g, 2.00 equiv | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran water | 600 mL | O1CCCC1.O
product | Benzyl (3aS,4R,6S,6aR)-6-hydroxy-2,2-dimethyl-tetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-ylcarbamate | 20.5 g, yield=68% | O[C@H]1C[C@H]([C@H]2[C@@H]1OC(O2)(C)C)NC(OCC2=CC=CC=C2)=O | C16H21NO5
